US06166011
(2S)-1-(1,3-Benzoxazol-2-yl)-N2 -[2-(3,5-dimethylmorpholino)ethyl]-2-piperidinecarboxamide
The title compound was prepared by a similar method to Example 1 from (2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid [see Preparation 3] and 2-(3,5-dimethylmorpholino)ethylamine [see Preparation 12]. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 100:0 changing to 95:5, by volume dichloromethane:methanol to afford (2S)-1-(1,3-benzoxazol-2-yl)-N2 -[2-(3,5-dimethylmorpholino)ethyl]-2-piperidinecarboxamide as a solid.

reactant | (2S)-1-(1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid | O1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)O | C13H14N2O3
reactant | 2-(3,5-dimethylmorpholino)ethylamine | CC1COCC(N1CCN)C | C8H18N2O
product | (2S)-1-(1,3-benzoxazol-2-yl)-N2 -[2-(3,5-dimethylmorpholino)ethyl]-2-piperidinecarboxamide | O1C(=NC2=C1C=CC=C2)N2[C@@H](CCCC2)C(=O)NCCN2C(COCC2C)C | C21H30N4O3
